US06610707B1
4-Dimethylaminopyridine (61 mg), methanol (45 μl) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (192 mg) were added to a solution of (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxylic acid (287 mg) [see Preparation 38] in dichloromethane (6 ml). The reaction mixture was stirred at room temperature for 56 hours after which time it was diluted with dichloromethane and washed with 1N aqueous hydrochloric acid solution followed by saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over magnesium sulphate and the solvent removed under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 90:10 changing to 50:50, by volume, hexane:ethyl acetate, to afford methyl (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxylate (239 mg) as an oil.

reactant | methanol | 45 μl | CO | CH4O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 192 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxylic acid | 287 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)O | C12H14FNO4S
catalyst | 4-Dimethylaminopyridine | 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | methyl (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxylate | 239 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)OC | C13H16FNO4S
